US06348474B1
6-Carboxy-1-(2,4-dichlorobenzyl)-3-methyl-1H-indazole
1-(2,4-Dichlorobenzyl)-6-(methoxycarbonyl)-3-methyl-1H-indazole (0.2 g, 0.57 mmol) was suspended in ethanol (10 ml), and a 1M aqueous sodium hydroxide solution (2 ml) was added. The mixture was stirred under heating at 90° C. for 40 min. After the starting compound disappeared, the ethanol was distilled away under reduced pressure. The residue was acidified with 1N hydrochloric acid (3 ml) and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The drying agent was filtered off and the filtrate was concentrated under reduced pressure to give the objective compound (0.19 g, 99%) as colorless crystals.

reactant | 1-(2,4-Dichlorobenzyl)-6-(methoxycarbonyl)-3-methyl-1H-indazole | 0.57 mmol, 0.2 g | ClC1=C(CN2N=C(C3=CC=C(C=C23)C(=O)OC)C)C=CC(=C1)Cl | C17H14Cl2N2O2
reactant | sodium hydroxide | 1M, 2 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-Carboxy-1-(2,4-dichlorobenzyl)-3-methyl-1H-indazole | 0.19 g, 99% | C(=O)(O)C1=CC=C2C(=NN(C2=C1)CC1=C(C=C(C=C1)Cl)Cl)C | C16H12Cl2N2O2
